* C:\Users\malen\Desktop\ITBA\POTENCIA\potencia\TP2\Parte 2\SimulacionConJoaco.asc
V1 V1 0 12
R1 0 Vo 5
V2 N009 0 PULSE(0 5 0 1n 1n 0.72u 5u)
XU1 V1 N005 0 secu NC_01 NC_02 750313974_Linear
D1 secu Vo 1N5819
D2 sw N007 MURS120
R2 N007 sw 100
C2 N007 0 1n
M1 sw Pwm 0 0 IRF530
C3 Vo 0 47µ V=100 Irms=35m Rser=1.22436 Lser=2.28242n
XU2 N003 N001 NC_03 Osc N006 N008 N006 N010 NC_04 0 Pwm 0 N004 NC_05 N004 N002 sg3525a
V3 N004 0 12
R3 N008 0 3.7k
C4 N006 0 1n
C5 N010 0 1µ
R4 N002 N001 5k
R5 0 N001 5k
V4 N003 0
C6 N001 0 10µ
Rsw N005 sw 0.01
C7 0 Vo 47µ
.model D D
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1.5m 1m 5n startup
* Modelos de terceros
.inc SG3525A.sub
.lib 750313974_Wurth_Electronics_Midcom.lib
.backanno
.end
